US05081131
6,8-Dichloro-N-(7-(1H-imidazol-1-yl)heptyl) benz(cd)indol-2-amine dihydrochloride
The free base of the title compound was prepared by the method of Example 55, utilizing 5.4 grams of 7-(1H-imidazol-1-yl)heptanamine, 7.6 grams of 6,8-dichlorobenz(cd)indol-2-thiol, 9.5 grams of mercuric acetate, and 500 ml of ethanol. A solution of 2.5 grams of the free base in 100 ml warm ethanol was treated with 30 ml of 2.3 N ethanolic hydrogen chloride. The resultant mixture was taken to dryness in vacuo, and the residual syrup boiled up in 400 ml of acetone. Cooling at room temperature gave 1.9 grams of the title compound mp 198° C.-201° C.

reactant | 7-(1H-imidazol-1-yl)heptanamine | 5.4 grams | N1(C=NC=C1)CCCCCCCN | C10H19N3
reactant | 6,8-dichlorobenz(cd)indol-2-thiol | 7.6 grams | ClC=1C=2C3=C(C(=NC3=C(C1)Cl)S)C=CC2 | C11H5Cl2NS
reactant | ethanol | 500 ml | C(C)O | C2H6O
reactant | hydrogen chloride | 2.3 N, 30 ml | Cl | ClH
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 6,8-Dichloro-N-(7-(1H-imidazol-1-yl)heptyl) benz(cd)indol-2-amine dihydrochloride | 1.9 grams | Cl.Cl.ClC=1C=2C3=C(C(=NC3=C(C1)Cl)NCCCCCCCN1C=NC=C1)C=CC2 | InChI=1S/C21H22Cl2N4.2ClH/c22-17-13-18(23)20-19-15(17)7-6-8-16(19)21(26-20)25-9-4-2-1-3-5-11-27-12-10-24-14-27;;/h6-8,10,12-14H,1-5,9,11H2,(H,25,26);2*1H
